US04647566
A solution of 3.5 g of ethyl 4-hydroxy-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate in 35 ml phosphorus oxychloride is heated to reflux under nitrogen for five hours. The POCl3 is removed under vacuum, the residue is dissolved in CHCl3, and the solution is washed with cold 2N NaOH, saturated NaCl, then dried over anhydrous MgSO4, and evaporated to dryness. The crude product is purified through a short column of silica gel eluting with EtOAc. Removal of solvent under vacuum affords ethyl 4-chloro-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate as an oil, which is used directly in the next step.

reactant | ethyl 4-hydroxy-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | 3.5 g | OC1=C(C=NC=2CCC(CC12)CC)C(=O)OCC | C14H19NO3
reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-6-ethyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | ClC1=C(C=NC=2CCC(CC12)CC)C(=O)OCC | C14H18ClNO2
